US07582658B2
Synthesis of N-[1-(benzothiophen-3-yl)ethyl]-3-(2-furyl)propionamide
3-(2-Furyl)propionic acid (368 mg), 1-(benzothiophen-3-yl)ethylamine (443 mg), N-ethyl-N′-dimethylaminopropylcarbodiimide hydrochloride (575 mg), 1-hydroxybenzotriazole (405 mg), and triethylamine (304 mg) were added to dehydrated dimethylformamide (DMF, 15 mL), and stirred at room temperature for 12 hours. The reaction mixture was added with water, and extracted with ethyl acetate. The organic layer was dried, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain 628 mg of the title compound.

reactant | 3-(2-Furyl)propionic acid | 368 mg | O1C(=CC=C1)CCC(=O)O | C7H8O3
reactant | 1-(benzothiophen-3-yl)ethylamine | 443 mg | S1C=C(C2=C1C=CC=C2)C(C)N | C10H11NS
reactant | N-ethyl-N′-dimethylaminopropylcarbodiimide hydrochloride | 575 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 405 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 304 mg | C(C)N(CC)CC | C6H15N
product | N-[1-(benzothiophen-3-yl)ethyl]-3-(2-furyl)propionamide | 628 mg | S1C=C(C2=C1C=CC=C2)C(C)NC(CCC=2OC=CC2)=O | C17H17NO2S
